US04492692
A mixture of hydroxylamine hydrochloride (9 g.) and a solution of 1-phenyl-3-phthalimidoacetone (23.4 g.) in pyridine/ethanol (80 ml.-80 ml.) was stirred at ambient temperature for 3 days. The resulting solution was concentrated, the residue washed twice with a mixture of toluene and methylene chloride and dried. The residue was purified by column chromatography on activated silica gel using cyclohexane/EtOAc 7:3 v/v as eluant to give 2-oximino-1-phenyl-3-phthalimidopropane (7.35 g.) as a mixture of syn and anti isomers.

reactant | hydroxylamine hydrochloride | 9 g | Cl.NO
reactant | 1-phenyl-3-phthalimidoacetone | 23.4 g | C1(=CC=CC=C1)CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C17H13NO3
solvent | pyridine ethanol | 80 ml | N1=CC=CC=C1.C(C)O
product | 2-oximino-1-phenyl-3-phthalimidopropane | 7.35 g | N(O)=C(CC1=CC=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C17H14N2O3
